US05593691
4. Preparation of Caprylic Acid Phytyl Ester
To a solution of 3 g phytol (3,7,11,15-Tetramethyl-2-hexadecen-1-ol), 1,5 g dimethyl formamide in 50 ml toluene is being added dropwise during one half hour a solution consisting of 2 g caprylic acid chloride (excess) in 25 ml toluene at 20° C.

reactant | phytol | 3 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
reactant | dimethyl formamide | 1,5 g | CN(C=O)C | C3H7NO
reactant | caprylic acid chloride | 2 g | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Caprylic Acid Phytyl Ester | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)OC(CCCCCCC)=O | C28H54O2
